US04756739
4-(3-chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichlorophenyl isocyanate
2 g (5.8 mmol) of 4-(3-chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichloroaniline were dissolved in 25 ml of anhydrous toluene, 2.9 g (29 mmol) of phosgene gas were introduced at 0° C., and the mixture was slowly warmed to 105° C. Excess phosgene was expelled using inert gas, the solvent was concentrated by evaporation, and the residue was dried in a high vacuum.

reactant | 4-(3-chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichloroaniline | 5.8 mmol, 2 g | ClC=1C(=NC=C(C1)OC(F)F)OC1=C(C=C(N)C=C1Cl)Cl | C12H7Cl3F2N2O2
reactant | phosgene | 29 mmol, 2.9 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-chloro-5-difluoromethoxy-2-pyridyloxy)-3,5-dichlorophenyl isocyanate | ClC=1C(=NC=C(C1)OC(F)F)OC1=C(C=C(C=C1Cl)N=C=O)Cl | C13H5Cl3F2N2O3
